US04469868
A solution of 46 g (0.2 mol) of 3-methyl-4-nitro-1-n-propyl-pyrazole-5-carbonyl chloride [J. Med. Chem., 16 1346 (1973)] in 50 ml of acetone is added slowly to 250 ml of cold (5° C.) concentrated ammonium hydroxide. The mixture is filtered to give 33 g (79%) of 3-methyl-4-nitro-1-n-propylpyrazole-5-carboxamide, mp 136°-138° C. The amide (33 g, 0.15 mol) is stirred under reflux in 100 ml of phosphorus oxychloride for 2.5 hours and evaporated in vacuo. The residue is stirred in 250 ml of ice water to give, after filtering, 25.5 g (86%) of 5-cyano-3-methyl-4-nitro-1-n-propylpyrazole. This nitropyrazole (25 g, 0.013 mol) is dissolved in 350 ml of glacial acetic acid and treated at 95° C. portionwise with 12 g iron filings and 20 ml of water. After stirring under reflux three hours the mixture is filtered and the filtrate is concentrated in vacuo. The concentrate is extracted with methylene dichloride and the organic extract is treated with 20 ml of acetic anhydride and refluxed for two hours. The cooled mixure is stirred with saturated aqueous NaHCO3 solution, the organic layer is dried (MgSO4), and evaporated in vacuo to give 16.5 g of N-(5-cyano-3-methyl-1-n-propylpyrazol-4-yl)acetamide, mp 129°-131° C.

reactant | 3-methyl-4-nitro-1-n-propyl-pyrazole-5-carbonyl chloride | 0.2 mol, 46 g | CC1=NN(C(=C1[N+](=O)[O-])C(=O)Cl)CCC | C8H10ClN3O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-methyl-4-nitro-1-n-propylpyrazole-5-carboxamide | 33 g, 79% | CC1=NN(C(=C1[N+](=O)[O-])C(=O)N)CCC | C8H12N4O3
